US06605629B1
To a mixture of 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropanol (318 mg), 2-hydroxyindane (268 mg), tributylphosphine (405 mg) and tetrahydrofuran (10 ml) was added 1,1′-(azodicarbonyl)dipiperidine (400 mg) at room temperature, and the resulting mixture was stirred for 1 hour. After the reaction mixture was concentrated, the residue was subjected to silica gel column chromatography, and 4-(4-chlorophenyl)-5-[3-(5-indanyloxy)propyl]-2-(2-methyl-1-imidazolyl)oxazole was obtained as an oil (418 mg, 96%) from an ethyl acetate-hexane (1:1, v/v)-eluted fraction.

reactant | 4-(4-chlorophenyl)-2-(2-methyl-1-imidazolyl)-5-oxazolepropanol | 318 mg | ClC1=CC=C(C=C1)C=1N=C(OC1CCCO)N1C(=NC=C1)C | C16H16ClN3O2
reactant | 2-hydroxyindane | 268 mg | OC1CC2=CC=CC=C2C1 | C9H10O
reactant | tributylphosphine | 405 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 400 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-(4-chlorophenyl)-5-[3-(5-indanyloxy)propyl]-2-(2-methyl-1-imidazolyl)oxazole | ClC1=CC=C(C=C1)C=1N=C(OC1CCCOC=1C=C2CCCC2=CC1)N1C(=NC=C1)C | C25H24ClN3O2
